US05332757
Using an analogous procedure to that described in Example 66, 4'-{4-[(2R,3S)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-{4-[(2R,3S)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone oxime in 87% yield, m.p. 89°-90° C.

reactant | 4'-{4-[(2R,3S)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone | CO[C@]1([C@H](OCC1)C)C=1C=C(SC1)SC1=CC=C(C=C1)C(C)=O | C18H20O3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-{4-[(2R,3S)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone oxime | 87% yield | CO[C@]1([C@H](OCC1)C)C=1C=C(SC1)SC1=CC=C(C=C1)/C(/C)=N/O | C18H21NO3S2
